US09422375B2
Replicate the preparation of the ligand used in Ex. 7 except use 0.2 g (2.103 mmol) of pyrrole-2-carbaldehyde and use adding 0.356 g (2.208 mmol) of 2-(di-isopropylphosphino)ethanamine instead of N1,N1-dimethylethane-1,2-diamine to give 0.487 g (97%) of N-((1H-pyrrol-2-yl)methylene)-2-(di(propan-2-yl)phosphino)ethanamine as a colorless, semi solid, which is analytically pure by GC-MS and 1H-NMR: 1H NMR (400 MHz, Benzene): δ 10.05 (s, 1H), 7.83 (s, 1H), 6.51 (s, 1H), 6.44 (m, J=2.2 Hz, 1H), 6.28-6.14 (m, 1H), 3.67 (dd, J=15.2, 6.9 Hz, 2H), 1.75-1.64 (m, 2H), 1.58 (dq, J=6.9, 5.3 Hz, 2H), 1.00 (ddd, J=14.8, 12.3, 7.1 Hz, 12H).

reactant | pyrrole-2-carbaldehyde | 2.103 mmol, 0.2 g | N1C(=CC=C1)C=O | C5H5NO
reactant | 2-(di-isopropylphosphino)ethanamine | 2.208 mmol, 0.356 g | C(C)(C)P(CCN)C(C)C | C8H20NP
product | N-((1H-pyrrol-2-yl)methylene)-2-(di(propan-2-yl)phosphino)ethanamine | 0.487 g, 97% | N1C(=CC=C1)C=NCCP(C(C)C)C(C)C | C13H23N2P
